US08686152B2
To a solution of 4-[1-(2-tert-butoxycarbonylamino-3-thiophen-2-yl-propionyl)-4-cyclohexylcarbamoyl-piperidin-4-ylmethyl]-benzoic acid methyl ester (4.46 mmol; 2.73 g) in THF (30 mL) and methanol (10 mL) was added a 1M solution of sodium hydroxide (6.69 mmol; 6.69 mL) and the resulting mixture was stirred overnight at room temperature. The resulting mixture was then evaporated and water (20 mL) was added. A 1N hydrochloric acid solution (10 mL) was added dropwise. A precipitate formed that was separated via filtration to yield 4-[1-(2-(S)-tert-butoxycarbonylamino-3-thiophen-2-yl-propionyl)-4-cyclohexylcarbamoyl-piperidin-4-ylmethyl]-benzoic acid after drying. MS (ESI) m/z 598.23 [M+H]+.

reactant | 4-[1-(2-tert-butoxycarbonylamino-3-thiophen-2-yl-propionyl)-4-cyclohexylcarbamoyl-piperidin-4-ylmethyl]-benzoic acid methyl ester | 4.46 mmol, 2.73 g | COC(C1=CC=C(C=C1)CC1(CCN(CC1)C(C(CC=1SC=CC1)NC(=O)OC(C)(C)C)=O)C(NC1CCCCC1)=O)=O | C33H45N3O6S
reactant | sodium hydroxide | 6.69 mmol, 6.69 mL | [OH-].[Na+]
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | methanol | 10 mL | CO | CH4O
product | 4-[1-(2-(S)-tert-butoxycarbonylamino-3-thiophen-2-yl-propionyl)-4-cyclohexylcarbamoyl-piperidin-4-ylmethyl]-benzoic acid | C(C)(C)(C)OC(=O)N[C@H](C(=O)N1CCC(CC1)(C(NC1CCCCC1)=O)CC1=CC=C(C(=O)O)C=C1)CC=1SC=CC1 | C32H43N3O6S
